US06521664B1
E-7-(4-hydroxyphenyl)hept-4-enoic acid was prepared from E-7-(4-methoxyphenyl)hept-4-enoic acid by removal of the methyl ether with boron tribromide. Boron tribromide was added to a solution of E-7-(4-methoxyphenyl)hept-4-enoic acid in methylene chloride at −78° C. and stirred for four hours. The product, E-7-(4-hydroxyphenyl)hept-4-enoic acid, was obtained by aqueous work-up of the reaction mixture followed by chromatography on silica gel, and was fully characterized by spectroscopic methods (infrared and nuclear magnetic resonance) and combustion analysis.

reactant | E-7-(4-methoxyphenyl)hept-4-enoic acid | COC1=CC=C(C=C1)CC/C=C/CCC(=O)O | C14H18O3
reactant | methyl ether | COC | C2H6O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | E-7-(4-hydroxyphenyl)hept-4-enoic acid | OC1=CC=C(C=C1)CC/C=C/CCC(=O)O | C13H16O3
